US08084448B2
A. Toluene-4-sulfonic Acid 3-cyano-2,2-dimethylpropyl Ester
To a solution of toluene-4-sulfonic acid 3-toluene-4-sulfonyloxy-2,2-dimethylpropyl ester (5.0 g, 12.1 mmol) in DMSO (15 mL) is added KCN (789 mg, 12.1 mmol). The mixture is stirred at 80° C. for 18 h then cooled to RT. The mixture is poured into water and extracted with ether. The organic layer is dried over sodium sulfate the filtrate concentrated. The crude material is purified by column chromatography to give the title compound.

reactant | toluene-4-sulfonic acid 3-toluene-4-sulfonyloxy-2,2-dimethylpropyl ester | 12.1 mmol, 5.0 g | C1(=CC=C(C=C1)S(=O)(=O)OCC(COS(=O)(=O)C1=CC=C(C=C1)C)(C)C)C | C19H24O6S2
reactant | KCN | 12.1 mmol, 789 mg | [C-]#N.[K+]
reactant | water | O | H2O
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
product | Toluene-4-sulfonic Acid 3-cyano-2,2-dimethylpropyl Ester | C(#N)CC(COS(=O)(=O)C1=CC=C(C=C1)C)(C)C | C13H17NO3S
